US04814344
3-(1H-Imidazol-1-yl)-1-(1H-indol-3-yl)-1-propanone
By a similar procedure to that described in Example 1, 1-(1H-indol-3-yl)-1-prop-2-enone (0.4 g) was reacted with imidazole (0.8 g) to give the title compound (0.314 g), m.p. 194°-197°; λmax (EtOH) 242.5 nm (ε12,900) λinf 259 nm (ε9,090) λmax 299.5 nm (ε12,390).

reactant | 1-(1H-indol-3-yl)-1-prop-2-enone | 0.4 g | N1C=C(C2=CC=CC=C12)C(C=C)=O | C11H9NO
reactant | imidazole | 0.8 g | N1C=NC=C1 | C3H4N2
product | 3-(1H-Imidazol-1-yl)-1-(1H-indol-3-yl)-1-propanone | 0.314 g | N1(C=NC=C1)CCC(=O)C1=CNC2=CC=CC=C12 | C14H13N3O
